US07745462B2
K3Fe(CN)6 (18.0 g, 54.8 mmol) is added to hot (80° C.) degassed water (150 ml), followed by 2-benzylindan-1-one (J Mol Catal A 2000, 154, 237; 3.8 g, 17.1 mmol). Concentrated aqueous ammonia (14 ml) is then added over 15 minutes and the reaction mixture is heated at 80-90° C. in the dark for 24 hours. After cooling to ambient temperature, the mixture is extracted with chloroform. The combined chloroform extracts are extracted with 3 M HCl and the acidic extracts are evaporated to afford 2-amino-2-benzylindan-1-one hydrochloride salt, MH+238. A suspension of 2-amino-2-benzylindan-1-one (0.506 g, 2.13 mmol) and 10% Pd/C (0.130 g) in acetic acid (15 ml) is hydrogenated at 0.35 bar for 24 hours. Concentrated sulphuric acid (1.5 ml) is added and the reaction is hydrogenated for a further 7 hours. The catalyst is filtered through a Celite™ filter plug and mixture concentrated in vacuo. The residue is basified to pH 8 with saturated aqueous sodium bicarbonate and extracted with ether. The ether extracts are washed with brine, dried (Na2SO4) and evaporated. The crude product is purified by flash chromatography (30:1 CH2Cl2-MeOH elution) to afford 4b,10-dihydro-9H-indeno[1,2-a]inden-9a-ylamine, MH+222. A mixture of 4b,10-dihydro-9H-indeno[1,2-a]inden-9a-ylamine (0.296 g, 1.34 mmol) and R-8-benzyloxy-5-oxiranyl-1H-quinolin-2-one (0.262 g, 0.893 mmol) in 2-methoxyethyl ether (4.5 ml) is heated in a sealed tube at 190° C. for 50 hours. The solvent is evaporated and the crude product purified by preparative LCMS to afford 5-[R-2-(4b,10-dihydro-9H-indeno-[1,2-a]inden-9a-ylamino) 1-hydroxyethyl]-8-benzyloxy-1H-quinolin-2-one, MH+515. A suspension of 5-[R-2-(4b,10-dihydro-9H-indeno[1,2-a]inden-9a-ylamino) 1-hydroxy-ethyl]-8-benzyloxy-1H-quinolin-2-one (10 mg, 0.02 mmol) and 10% Pd/C (8 mg) in ethanol (5 ml) is hydrogenated at 0.35 bar for 30 minutes. The catalyst is filtered through a Celite™ filter plug and the solvent evaporated to afford 5-[R-2-(4b,10-dihydro-9H-indeno[1,2-a]inden-9a-ylamino) 1-hydroxyethyl]-8-hydroxy-1H-quinolin-2-one, MH+426.

reactant | 2-amino-2-benzylindan-1-one | 2.13 mmol, 0.506 g | NC1(C(C2=CC=CC=C2C1)=O)CC1=CC=CC=C1 | C16H15NO
reactant | sulphuric acid | 1.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 0.130 g | [Pd] | Pd
product | 4b,10-dihydro-9H-indeno[1,2-a]inden-9a-ylamine | C1=C2CC3(C(C2=CC=C1)C=1C=CC=CC1C3)N | C16H15N
